US06331538B1
1-Cyclopropylmethyl-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
Using the method of Example 56, 20% Pd/C (25 mg), 3-benzyloxy-1-cyclopropylmethyl-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione (Example V-4, 0.16 g, 0.39 mmol) were combined in 25 mL of THF, to give 0.06 g of the title compound as a solid, mp 211-213° C.

reactant | 3-benzyloxy-1-cyclopropylmethyl-6-fluoro-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.39 mmol, 0.16 g | C(C1=CC=CC=C1)ON1C(N(C2=CC(=C(C=C2C1=O)F)N1CCCC1)CC1CC1)=O | C23H24FN3O3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
catalyst | Pd/C | 25 mg | [Pd] | Pd
product | 1-Cyclopropylmethyl-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.06 g | C1(CC1)CN1C(N(C(C2=CC(=C(C=C12)N1CCCC1)F)=O)O)=O | C16H18FN3O3
